US07863332B2
7.8 g (90 mmol, 5 eq) of manganese oxide are added to a solution of 6.5 g (17.98 mmol, 1 eq) of (3-benzyloxy-4-iodophenyl)methanol in 50 mL of dichloromethane. The reaction medium is stirred for 12 hours at room temperature, and the solid is then filtered off and the solvent is evaporated off. The residual oil is chromatographed on silica gel (8/2 heptane/ethyl acetate). The oil obtained is crystallized from pentane. 3.25 g of 3-benzyloxy-4-iodobenzaldehyde are obtained. Yield=54% for the three steps c, d and e.

reactant | (3-benzyloxy-4-iodophenyl)methanol | 17.98 mmol, 6.5 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C=CC1I)CO | C14H13IO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 90 mmol, 7.8 g, 5 eq | [O-2].[Mn+2]
product | 3-benzyloxy-4-iodobenzaldehyde | 3.25 g, Yield=54% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1I | C14H11IO2
